US05362744
(b) N'-Phenyl-hydrazinecarboximidamide monohydroiodide
To a stirred room temperature suspension of phenyl-carbamimidothioic acid, methyl ester, monohydroiodide (91.5 g, 0.311 mol) in absolute ethanol (280 mL) was added in one portion anhydrous hydrazine (9.8 mL, 0.31 mol), and the mixture was heated to reflux. The mixture was refluxed for 3 hours and allowed to cool. The resulting solution was purged with nitrogen to remove methanethiol and rotary evaporated to an oil. The oil was dried in vacuo briefly then dissolved in water (130 mL). The solution was rotoevaporated to an oil. The oil was dried in vacuo (50° C.), yield 87.08 g (100%). 1H NMR (DMSO-d6): δ 9.5 (br s, 0.5H), 9.0 (br s, 1.5H), 7.7 (br s, 2H), 7.4 (t, 2H), 7.2 (m, 3H), 4.8 (br s, 2H).

reactant | phenyl-carbamimidothioic acid, methyl ester, monohydroiodide | 0.311 mol, 91.5 g | I.C1(=CC=CC=C1)NC(=N)SC
reactant | hydrazine | 0.31 mol, 9.8 mL | NN | H4N2
solvent | ethanol | 280 mL | C(C)O | C2H6O
product | N'-Phenyl-hydrazinecarboximidamide monohydroiodide | I.C1(=CC=CC=C1)N=C(N)NN | InChI=1S/C7H10N4.HI/c8-7(11-9)10-6-4-2-1-3-5-6;/h1-5H,9H2,(H3,8,10,11);1H
